US04684648
A mixture of ethyl 6,7,8-trifluro-1-(4-methoxyphenyl)-1,4-dihydro-4-oxoquinoline-3-carboxylate (0.37 g) and 47% hydrobromic acid (4 ml) is heated at 120° C. for 3 hours. After cooling, the precipitated crystals are separated by filtration, washed with water and further with a mixture of ethanol and ether to give 6,7,8-trifluoro-1-(4-hydroxyphenyl)-1,4-dihydro-4-oxoquinoline-3-carboxylic acid (0.26 g), m.p. >300° C., white crystals.

reactant | ethyl 6,7,8-trifluro-1-(4-methoxyphenyl)-1,4-dihydro-4-oxoquinoline-3-carboxylate | 0.37 g | FC=1C=C2C(C(=CN(C2=C(C1F)F)C1=CC=C(C=C1)OC)C(=O)OCC)=O | C19H14F3NO4
reactant | hydrobromic acid | 4 ml | Br | BrH
product | 6,7,8-trifluoro-1-(4-hydroxyphenyl)-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 0.26 g | FC=1C=C2C(C(=CN(C2=C(C1F)F)C1=CC=C(C=C1)O)C(=O)O)=O | C16H8F3NO4
